US07700633B2
B. 6-Methoxy-2-methyl-1,2,3,4-tetrahydronaphthalen-1-ol
To an ice-cooled solution of 6-methoxy-2-methyl-3,4-dihydro-2H-naphthalen-1-one (7.0 g, 36.8 mmol) in MeOH (120 mL) is added NaBH4 (2.78 g, 73.6 mmol) portion wise and the mixture is stirred at RT for 20 min. Then the reaction is poured to 120 mL of water and extracted with ether. The organic phase is dried with MgSO4, concentrated to give the title compound as a light yellow oil and it is used in the next step without purification.

reactant | 6-methoxy-2-methyl-3,4-dihydro-2H-naphthalen-1-one | 36.8 mmol, 7.0 g | COC=1C=C2CCC(C(C2=CC1)=O)C | C12H14O2
reactant | NaBH4 | 73.6 mmol, 2.78 g | [BH4-].[Na+]
reactant | water | 120 mL | O | H2O
solvent | MeOH | 120 mL | CO | CH4O
product | 6-Methoxy-2-methyl-1,2,3,4-tetrahydronaphthalen-1-ol | COC=1C=C2CCC(C(C2=CC1)O)C | C12H16O2
